Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Benzodiazepines / Penicillins
 
Attending: ___
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ yo G2P1 female with history of gallstones s/p
cholecystectomy now 10 days postpartum after uncomplicated SVD
who represented to ___ with nausea, vomiting,
abdominal/flank/back pain and an inability to tolerate oral
intake.  When evaluated by gynecology she was found to have mild
uterine tenderness and was started on clinda/gentamicin for
endometritis yesterday.  

She reports having nausea without an appetite immediately after
delivery of her daughter.  She had an epidural for delivery.  
She
went home still with nausea but no vomiting.  She reports some
trouble with breastfeeding secondary to uterine contractions and
a low grade fever.  This prompted her to return on ___.  She
was told she had a UTI and given Motrin, macrobid and IV fluids. 

However, she had persistent nausea and vomiting so returned to
L&D yesterday.  She notes severe GERD during her pregnancy for
which she was on ranitidine twice daily.  She stopped this after
delivery.  She has not been taking NSAIDS otherwise.  She took
iron during her pregnancy for anemia but stopped this recently
too.  She notes trouble with constipation during her pregnancy
with her last BM being six days ago.  She denies passing gas but
feels as if she wants to burp.  She notes pain that starts in 
her
mid back and wraps around to her mid abdomen.  She denies any
rashes.  She reports vaginal bleeding that has become lighter
over the past week. Not passing large clots or soaking pads
quickly.  

 
Past Medical History:
PMHx/PSurgical Hx:
-G2PI with term SVD as above and SAB x1
-gluten sensitivity
-Asthma
-Hypothyroidism (Graves hyperthyroidism s/p ablation)
-Possible cHTN (BP at initial OB visit 130-140/90s)
-lap CCY, ___
-D&C

Outpatient Medications:  
- levothyroxine 250mcg daily (except ___ = 200mcg)
- albuterol prn 

Allergies:  benzodiazepines, pun 

SH:  Denies T/E/D.

 
Social History:
see above
 
Physical Exam:
Initial PHYSICAL EXAM:  
VS: afebrile, VSS 
GENERAL: NAD. Comfortable  
Eyes: Anicteric without conjunctival injection  
ENT: MMM. No oral lesions  
NECK: supple.  
___: RRR, no m/r/g  
LUNGS: CTAB, no w/r/c  
ABDOMEN: soft, nontender, distended, normoactive bowel sounds, 
no
rebound or guarding
SKIN: Warm. Dry.  No rashes or edema.
NEURO: [x] Oriented x3 [x] Fluent speech  
Psych: [x] Alert [x] Calm  

 
 
Pertinent Results:
___ 09:07AM BLOOD WBC-5.2 RBC-4.05* Hgb-11.3* Hct-33.3* 
MCV-82 MCH-27.8 MCHC-33.8 RDW-14.2 Plt ___
___ 06:37AM BLOOD WBC-5.3 RBC-3.68* Hgb-10.3* Hct-30.7* 
MCV-84 MCH-28.0 MCHC-33.5 RDW-13.8 Plt ___
___ 09:07AM BLOOD Neuts-56.5 ___ Monos-9.8 Eos-1.6 
Baso-0.1
___ 06:37AM BLOOD Neuts-43.0* Lymphs-44.9* Monos-6.9 
Eos-4.4* Baso-0.9
___ 09:07AM BLOOD Glucose-103* UreaN-10 Creat-0.7 Na-136 
K-8.9* Cl-106 HCO3-25 AnGap-14
___ 06:37AM BLOOD Glucose-87 UreaN-9 Creat-0.8 Na-139 K-3.6 
Cl-100 HCO3-27 AnGap-16
___ 09:07AM BLOOD ALT-17 AST-78* AlkPhos-81 TotBili-0.5
___ 06:37AM BLOOD ALT-9 AST-14

 
Brief Hospital Course:
On ___ Ms. ___ was admitted with concern for endometritis 
given her uterine tenderness on exam. She had no other objective 
signs of infection and she received gentamicin and clindamycin 
for treatment of post partum endometritis.

The gastroenterology service was consulted and they recommended 
treatment for gastritis and constipation. She improved with 
omeprazole and ranitidine. She was discharged home on hospital 
day #2. 
 
Discharge Medications:
1. Levothyroxine Sodium 250 mcg PO DAILY 
2. Omeprazole 40 mg PO BID 
RX *omeprazole 40 mg 1 capsule(s) by mouth twice a day Disp #*40 
Capsule Refills:*1
3. Ranitidine 150 mg PO BID 
RX *ranitidine HCl 150 mg 1 capsule(s) by mouth twice a day Disp 
#*60 Capsule Refills:*1

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal pain, nausea, vomiting, gastritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Routine postpartum instructions.
Reminder to continue medications for gastritis
 
Followup Instructions:
___